US06384080B1
To a solution of N-(3,4-dimethoxybenzyl)-2-[2-hydroxy-1-(hydroxymethyl)ethylamino]-5-nitrobenzamide (117 mg) in dichloromethane (5.0 mL) were added 2,2-dimethoxypropane (0.36 mL) and 4-toluenesulfonic acid (10 mg), and the mixture was stirred for 30 minutes under reflux. The resulting mixture was diluted with ethyl acetate and washed successively with diluted sodium bicarbonate and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was triturated with diethyl ether to give N-(3,4-dimethoxybenzyl)-2-(2,2-dimethyl-1,3-dioxan-5-ylamino)-5-nitrobenzamide (105 mg) as a solid substance.

reactant | N-(3,4-dimethoxybenzyl)-2-[2-hydroxy-1-(hydroxymethyl)ethylamino]-5-nitrobenzamide | 117 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC(CO)CO)=O)C=CC1OC | C19H23N3O7
reactant | 2,2-dimethoxypropane | 0.36 mL | COC(C)(C)OC | C5H12O2
reactant | 4-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3,4-dimethoxybenzyl)-2-(2,2-dimethyl-1,3-dioxan-5-ylamino)-5-nitrobenzamide | 105 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2COC(OC2)(C)C)=O)C=CC1OC | C22H27N3O7
